US06897306B2
5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N-[3-(dimethylamino)propyl]-N-methyl-1,2,4-oxadiazole-3-carboxamide
A solution (3R)-6-cyclohexyl-3-(3-{[[3-(dimethylamino)propyl](methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid (Preparation 84) (566 mg, 0.88 mmol) and N-methylmorpholine (390 μl, 3.52 mmol) in dichloromethane (10 ml) was cooled to 0° C., treated with isobutyl chloroformate (340 μl, 2.64 mmol) and stirred under an argon atmosphere for 1 hour. O-(Trimethylsilyl)hydroxylamine (540 μl, 4.40 mmol) was added and the mixture was stirred for 4.5 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol (2.5 ml) and stirred at room temperature for 20 minutes. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and washed with water (20 ml), dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The solid was purified by column chromatography on silica gel eluting with a gradient system of 97:3:0.3 (dichloromethane:methanol:ammonia) gradually changing to 90:10:1 (dichloromethane:methanol:ammonia) to afford the title compound (150 mg).

reactant | (3R)-6-cyclohexyl-3-(3-{[[3-(dimethylamino)propyl](methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 0.88 mmol, 566 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N(C)CCCN(C)C | C21H36N4O4
reactant | N-methylmorpholine | 3.52 mmol, 390 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.64 mmol, 340 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 4.40 mmol, 540 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 2.5 ml | CO | CH4O
product | 5-{(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N-[3-(dimethylamino)propyl]-N-methyl-1,2,4-oxadiazole-3-carboxamide | 150 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N(C)CCCN(C)C | C21H37N5O4
